US08445684B2
3-[4-[2-(4-Hydroxyphenoxy)ethyl]-1-piperidinyl]-5-[[1-(tert-butoxycarbonyl)-2(S)-pyrrolidinyl]methoxy]pyridine
A mixture of 3-[4-[2-[4-(benzyloxy)phenoxy]ethyl]-1-piperidinyl]-5-[[1-(tert-butoxycarbonyl)-2(S)-pyrrolidinyl]methoxy]pyridine (300 mg, 0.51 mmol) and palladium on carbon (60 mg) in MeOH/CH2Cl2 (20/7 mL) was stirred at room temperature overnight under H2. TLC analysis of the reaction mixture indicated that the starting material had disappeared. The solids were filtered off, and the filtrate was concentrated under vacuum to provide the title compound (260 mg, 92%) as a yellow solid. 1H NMR (DMSO-d6, 300 MHz) δ 8.88 (s, 1H), 7.91 (s, 1H), 7.70 (s, 1H), 6.97 (s, 1H), 6.75 (d, 2H, J=8.7 Hz), 6.66 (d, 2H, J=9.0 Hz), 4.05-4.01 (m, 3H), 3.92-3.90 (m, 2H), 3.77 (m, 2H), 3.32 (m, 2H), 2.74-2.71 (m, 2H), 1.99-1.65 (m, 7H), 1.40 (s, 9H), 1.38-1.18 (m, 4H). LC-MS (ESI) m/z 498 (M+H+).

reactant | 3-[4-[2-[4-(benzyloxy)phenoxy]ethyl]-1-piperidinyl]-5-[[1-(tert-butoxycarbonyl)-2(S)-pyrrolidinyl]methoxy]pyridine | 0.51 mmol, 300 mg | C(C1=CC=CC=C1)OC1=CC=C(OCCC2CCN(CC2)C=2C=NC=C(C2)OC[C@H]2N(CCC2)C(=O)OC(C)(C)C)C=C1 | C35H45N3O5
catalyst | palladium on carbon | 60 mg | [Pd] | Pd
solvent | MeOH CH2Cl2 | 7 mL | CO.C(Cl)Cl
product | 3-[4-[2-(4-Hydroxyphenoxy)ethyl]-1-piperidinyl]-5-[[1-(tert-butoxycarbonyl)-2(S)-pyrrolidinyl]methoxy]pyridine | 260 mg, 92% | OC1=CC=C(OCCC2CCN(CC2)C=2C=NC=C(C2)OC[C@H]2N(CCC2)C(=O)OC(C)(C)C)C=C1 | C28H39N3O5
